US05116863
In this example, 348.9 g of sodium salt of methyl p-hydroxybenzoate, 402.4 g of phthalide and 200 g of sodium chloride are mixed with one another and stirred at 150° C. for 6 hours. After completion of the reaction, the mixture is cooled until the temperature is brought back to room temperature, 4 l of aqueous 10% acetic acid solution is added thereto and the mixture is allowed to stand at room temperature overnight. After stirring the mixture at room temperature for 3 hours, deposited crystals are separated by filtration, and 6 l of water is added thereto. After stirring the mixture at room temperature for 30 minutes, the deposited crystals are separated by filtration. After the addition of 3 l of toluene to the crystals, the mixture is stirred at room temperature for one hour. The crystals are separated by filtration and dried over heating under reduced pressure to yield 393.9 g of 2-(4-methoxycarbonylphenoxy) methyl benzoic acid.

reactant | sodium | 348.9 g | [Na] | Na
reactant | methyl p-hydroxybenzoate | COC(=O)C=1C=CC(=CC1)O | C8H8O3
reactant | phthalide | 402.4 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | sodium chloride | 200 g | [Cl-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-methoxycarbonylphenoxy) methyl benzoic acid | 393.9 g | COC(=O)C1=CC=C(OCC2=C(C(=O)O)C=CC=C2)C=C1 | C16H14O5
